US07534887B2
18a) 3-((6-Chloro-2-naphthyl)sulfonyl)propionyl chloride
3-((6-Chloro-2-naphthyl)sulfonyl)propionic acid (14.9 g), thionyl chloride (4.4 mL) and DMF (2 drops) were added to toluene (100 mL), and the mixture was refluxed for 1.5 hours. The solvent was distilled off under reduced pressure, and the residue was washed with ether and hexane to give the title compound (15.5 g) as a brown solid.

reactant | 3-((6-Chloro-2-naphthyl)sulfonyl)propionic acid | 14.9 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)CCC(=O)O | C13H11ClO4S
reactant | thionyl chloride | 4.4 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-((6-Chloro-2-naphthyl)sulfonyl)propionyl chloride | 15.5 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)CCC(=O)Cl | C13H10Cl2O3S
